Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][n:7][cH:8]1.[O:9]=[c:10]1[cH:11][c:12]([CH2:13][NH:14][c:15]2[cH:16][cH:17][cH:18][c:19]([Cl:20])[cH:21]2)[c:22]2[cH:23][cH:24][cH:25][c:26]([F:27])[c:28]2[nH:29]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][n:7][cH:8]1)[N:14]([CH2:13][c:12]1[cH:11][c:10](=[O:9])[nH:29][c:28]2[c:22]1[cH:23][cH:24][cH:25][c:26]2[F:27])[c:15]1[cH:16][cH:17][cH:18][c:19]([Cl:20])[cH:21]1,[O:9]=[c:10]1[cH:11][c:12]([CH2:13][NH:14][c:15]2[cH:16][cH:17][cH:18][c:19]([Cl:20])[cH:21]2)[c:22]2[cH:23][cH:24][cH:25][c:26]([F:27])[c:28]2[nH:29]1.[OH:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][n:7][cH:8]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][n:7][cH:8]1)[N:14]([CH2:13][c:12]1[cH:11][c:10](=[O:9])[nH:29][c:28]2[c:22]1[cH:23][cH:24][cH:25][c:26]2[F:27])[c:15]1[cH:16][cH:17][cH:18][c:19]([Cl:20])[cH:21]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (14, 1), ([1, 2], 2), (303, 14.1), ([14.1, 14], 14), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[cH:3][cH:4][c:5]([OH:6])[c:7]([C:8](=[O:9])[OH:10])[cH:11]1.[CH3:12][c:13]1[cH:14][cH:15][cH:16][cH:17][c:18]1[CH2:19][N:20]([c:21]1[cH:22][cH:23][c:24]([C:25]#[N:26])[c:27]([Cl:28])[cH:29]1)[C@H:30]1[CH2:31][CH2:32][NH:33][CH2:34]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([OH:6])[c:7]([C:8](=[O:9])[OH:10])[cH:11]1)[N:33]1[CH2:32][CH2:31][C@H:30]([N:20]([CH2:19][c:18]2[c:13]([CH3:12])[cH:14][cH:15][cH:16][cH:17]2)[c:21]2[cH:22][cH:23][c:24]([C:25]#[N:26])[c:27]([Cl:28])[cH:29]2)[CH2:34]1,[CH3:12][c:13]1[cH:14][cH:15][cH:16][cH:17][c:18]1[CH2:19][N:20]([c:21]1[cH:22][cH:23][c:24]([C:25]#[N:26])[c:27]([Cl:28])[cH:29]1)[C@H:30]1[CH2:31][CH2:32][NH:33][CH2:34]1.[O:101]=[CH:1][c:2]1[cH:3][cH:4][c:5]([OH:6])[c:7]([C:8](=[O:9])[OH:10])[cH:11]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([OH:6])[c:7]([C:8](=[O:9])[OH:10])[cH:11]1)[N:33]1[CH2:32][CH2:31][C@H:30]([N:20]([CH2:19][c:18]2[c:13]([CH3:12])[cH:14][cH:15][cH:16][cH:17]2)[c:21]2[cH:22][cH:23][c:24]([C:25]#[N:26])[c:27]([Cl:28])[cH:29]2)[CH2:34]1,reductive_amination,"[(33, 1), ([1, 101], 301), (101, 33.1), ([33.1, 33], 33), (33, [33, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 33], 33)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]([CH2:2][CH:3]([CH3:4])[CH3:5])[NH:6][c:7]1[n:8][cH:9][cH:10][nH:11]1>>[CH2:1]([CH2:2][CH:3]([CH3:4])[CH3:5])[NH:6][c:7]1[n:8][cH:9][cH:10][nH:11]1,[O:101]=[C:1]([CH2:2][CH:3]([CH3:4])[CH3:5])[NH:6][c:7]1[n:8][cH:9][cH:10][nH:11]1.[AlH4-:301].[AlH4-:302]>>[CH2:1]([CH2:2][CH:3]([CH3:4])[CH3:5])[NH:6][c:7]1[n:8][cH:9][cH:10][nH:11]1,amide_reduction,"[([301, 301.1], 1), ([1, 101], 301), (6, [6, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 6], 6)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[cH:3][cH:4][cH:5][c:6]([N+:7](=[O:8])[O-:9])[cH:10]1.[N:11]#[C:12][c:13]1[cH:14][n:15][c:16]2[cH:17][cH:18][c:19]([NH2:20])[cH:21][c:22]2[c:23]1[NH:24][c:25]1[cH:26][cH:27][c:28]([F:29])[c:30]([Cl:31])[cH:32]1>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([N+:7](=[O:8])[O-:9])[cH:10]1)[NH:20][c:19]1[cH:18][cH:17][c:16]2[n:15][cH:14][c:13]([C:12]#[N:11])[c:23]([NH:24][c:25]3[cH:26][cH:27][c:28]([F:29])[c:30]([Cl:31])[cH:32]3)[c:22]2[cH:21]1,[N:11]#[C:12][c:13]1[cH:14][n:15][c:16]2[cH:17][cH:18][c:19]([NH2:20])[cH:21][c:22]2[c:23]1[NH:24][c:25]1[cH:26][cH:27][c:28]([F:29])[c:30]([Cl:31])[cH:32]1.[O:101]=[CH:1][c:2]1[cH:3][cH:4][cH:5][c:6]([N+:7](=[O:8])[OH:9])[cH:10]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([N+:7](=[O:8])[OH:9])[cH:10]1)[NH:20][c:19]1[cH:18][cH:17][c:16]2[n:15][cH:14][c:13]([C:12]#[N:11])[c:23]([NH:24][c:25]3[cH:26][cH:27][c:28]([F:29])[c:30]([Cl:31])[cH:32]3)[c:22]2[cH:21]1,reductive_amination,"[(20, 1), ([1, 101], 301), (101, 20.1), ([20.1, 20], 20), (20, [20, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 20], 20)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
